US07495103B2
A clear orange-red solution of polysulfide (120 ml, 7.5 eq.), previously prepared by heating sodium sulfide monohydrate (10 g), sulfur (1.04 g) and water (160 ml), was added dropwise at 90° C. over 45 minutes to a suspension of 2′-ethoxy-2,4-dinitro-biphenyl (1.2 g, 4.0 mmol) in water (40 ml). The red-brown solution was heated at reflux for 1.5 h. The mixture was cooled to room temperature, and solid NaCl (5 g) was added. The solution was extracted with CH2Cl2 (3×50 mL), and the combined organic extracts was concentrated to provide 2′-ethoxy-2-nitrobiphenyl-4-yl amine (0.98 g, 95%) that was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 7.26 (m, 2H), 7.17 (d, J=2.7 Hz, 1H), 7.11 (d, J=7.8 Hz, 1H), 7.00 (t, J=6.9 Hz, 1H), 6.83 (m, 2H), 3.91 (q, J=6.9 Hz, 2H), 1.23 (t, J=7.2 Hz, 3H); HPLC ret. time 2.81 min, 10-100% CH3CN, 5 min gradient; ESI-MS 259.1 m/z (MH+).

reactant | sodium sulfide monohydrate | 10 g | O.[S-2].[Na+].[Na+]
reactant | sulfur | 1.04 g | [S] | S
reactant | 2′-ethoxy-2,4-dinitro-biphenyl | 4.0 mmol, 1.2 g | C(C)OC1=C(C=CC=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H12N2O5
reactant | NaCl | 5 g | [Na+].[Cl-]
solvent | water | 40 ml | O | H2O
solvent | water | 160 ml | O | H2O
product | 2′-ethoxy-2-nitrobiphenyl-4-yl amine | 0.98 g, 95% | C(C)OC1=C(C=CC=C1)C1=C(C=C(C=C1)N)[N+](=O)[O-] | C14H14N2O3
